Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"I stopped taking my meds"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Mr. ___ is a ___ year old man and ___ client with a  
diagnosis of schizophrenia, several previous hospitalizations 
(including recent admission to ___ a 
forensic evaluation) who was BIB EMS from his outpatient 
psychiatrist due to worsening auditory hallucinations, paranoia, 
and disorganization in the setting of medication non-adherence. 
Collateral obtained from patient's psychiatrist, Dr. ___, 
reveals that patient has a history of aggressive behavior in the 
setting of medication non-adherence due to heightened paranoia 
and command auditory hallucinations. In the past ___ have 
prompted the patient to harm himself, resulting in an 
intentional overdose. During the current episode, patient has 
appeared increasingly internally preoccupied and has verbalized 
heightened paranoia about his sister and non-specific 
individuals patient believes to have been related to a shooting 
that occurred in ___. (Upon speaking with Dr. ___ if 
this alleged shooting actually occurred). Should be noted that 
upon interview, patient was a very limited historian and unable 
to provide a linear or consistent narrative of events. Recalled 
being discharged from ___ and Hospital in 
___ following a 30 day admission for a forensic evaluation. 
.  
Initially stated that he continued taking his medications after 
discharge, later stated that he stopped taking his medications. 
Regarding current psychotic symptoms, endorsed ongoing auditory 
hallucinations as above. Also alluded to ideas of reference 
experienced while watching television (e.g. beliefs that 
athletes are somehow related to him and compelling him to play 
sports). Denies current thoughts/urges to harm himself or 
others. Stated explicitly that he feels "safer" following 
admission.
 
Past Medical History:
Past psychiatric history notable for diagnosis of schizophrenia; 
___ client ___ years; providers at ___. Multiple medication 
trials and inpatient hospitalizations. One previous overdose ___ 
___. Alleged assault when decompensated and medication 
non-adherent.
.
Past medical history: none
.  
Most recent medications:
-risperidone 3mg QHS
-risperidone 1mg BID
.  
Allergies: NKDA ; however, patient reported experiencing 
dystonic reaction with haldol
.  
Substance use history notable for suspected ongoing cannabis 
use; denies other illicits, tobacco, or alcohol use.
.  
Forensic history notable for charges of A/B and larceny 
(allegedly stole his sister's car); 15b CST evaluation at ___ 
but outcome unclear (probation, etc).
 
Social History:
___
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.

 
Physical Exam:
VITAL SIGNS:
___ Temp: 98.1 PO BP: 132/90 HR: 72 RR: 16 O2 sat: 99% 

  
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted on exposed skin. Reports rash 
on buttocks but did not examine.
  
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: Not tested
-___: Normal on finger to nose test, no intention 
tremor noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
  
Cognition: 
-Wakefulness/alertness: awake and alert
-Attention (digit span, MOYB): attentive to interview, able to 
spell EARTH forwards but has difficulty doing it backwards
-Orientation: oriented to person, place, month and recent ___ 
holiday, but not exact date and situation
-Memory: seems intact to recent events, ___ registration, ___ 
recall at 5 min
-Fund of knowledge:  appropriate
-Speech: fluent, normal rate rhythm and volume
-Language: intact to spoken ___
  
Mental Status:
-Appearance: age appearing young man, malodorous, not disheveled 
appearing, no apparent distress
-Behavior/Attitude: calm, cooperative, no psychomotor agitation 
or retardation
-Mood/Affect: "confused", constricted affect
-Thought process: linear, goal directed, no loosening of 
associations
-Thought content: endorses auditory hallucinations, paranoia, 
denies SI/HI, but not reliable or clear with answers
-Judgment/Insight: fair, limited
 
Pertinent Results:
___ 04:03PM   GLUCOSE-82 UREA N-9 CREAT-1.0 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 04:03PM   estGFR-Using this
___ 04:03PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:03PM   WBC-5.5 RBC-4.28* HGB-14.3 HCT-39.9* MCV-93 
MCH-33.4* MCHC-35.8 RDW-11.8 RDWSD-39.8
___ 04:03PM   NEUTS-37.5 ___ MONOS-8.2 EOS-2.5 
BASOS-0.7 IM ___ AbsNeut-2.06 AbsLymp-2.80 AbsMono-0.45 
AbsEos-0.14 AbsBaso-0.04
___ 04:03PM   PLT COUNT-212

Cholest 138 Triglyc 41 HDL 44 LDL 86
%HbA1c 4.21 
TSH 1.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.  
2. PSYCHIATRIC:
#) Schizophrenia
At the time of presentation, the patient was a notably poor 
historian, with disorganized thought process and poverty of 
thought; he did state that he stopped taking medications and 
endorsed  at least one week of worsening auditory hallucinations 
as well as distressing thoughts about a friend's death several 
years ago. On exam he had a flat affect and appeared guarded and 
paranoid. Collateral from the patient's outpatient psychiatrist 
was significant for reports from the patient's family that since 
discontinuation of meds, he had been yelling at people out of 
his window in response to auditory hallucinations. Psychiatrist 
saw him day of presentation and reported that the patient was 
disorganized, confused, and scared. Per collateral from both the 
outpatient psychiatrist and therapist, the patient has a history 
of becoming agitated and assaultive when decompensated and in 
the past had also made a suicide attempt by overdose in response 
to command auditory hallucinations. 
.  
Patient had initially consented to starting Olanzapine 2.5mg 
BID. He was then transitioned to Paliperidone PO with plans to 
offer ___. He was started on Paliperidone 6mg QHS and 
titrated up to 9mg. Loading dose of Invega 234mg IM was 
administered on ___. A second loading dose of Invega 156mg 
IM was administered on ___. During his admission, he was 
additionally given benadryl 25mg QHS, per patient request, for 
sleep. He was also offered PRNs of Risperidone 1mg BID, 
Benztropine 0.5mg BID, LORazepam 1 mg BID, and HydrOXYzine 25 mg 
TID. He also engaged in therapy offered on the unit (individual, 
milieu, and occasionally group therapy). 
.
He subsequently improved, appearing less guarded and paranoid. 
He had a more linear and organized thought process, a more 
appropriate and reactive affect, and engaged more in treatment. 
He endorsed significant concern regarding side effects of 
antipsychotic medications, but was agreeable to the recommended 
medication regimen after multiple discussions regarding risks, 
benefits, and indications.
. 
3. MEDICAL
#Rash (Buttocks/genitals): Patient reported itchy rash in 
groin/buttocks region. GC/chlamydia negative, HIV negative, RPR 
negative, UA WNL. Per medicine consult service, the rash is 
likely HPV, no intervention indicated, and recommendation is 
outpatient follow up.
. 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. During his 
stay, he attended only a few group sessions that focused on 
teaching patients various coping skills. He was often visible in 
the milieu, but mostly isolative and often kept to himself.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Patient gave the primary team verbal permission to contact his 
outpatient psychiatrist (Dr. ___ and outpatient therapist 
(___) at ___. Both psychiatrist and therapist 
visited the patient during this admission and provided 
collateral information and treatment recommendations. The 
primary team coordinated with both providers in regards to 
discharge plans. 
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Olanzapine, Paliperidone (PO and ___ and Risperidone, 
and risks and benefits of possible alternatives, including not 
taking the medications, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and I  answered the patient's 
questions.  The patient appeared able to understand and 
consented to begin the medication.
.
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon acute 
psychosis with auditory hallucinations, disorganized behavior.  
His static factors noted at that time include history of suicide 
attempt, history of abuse/trauma, chronic mental illness,  
recent discharge from an inpatient psychiatric unit, and male 
gender.   The modifiable risk factors included psychosis, 
disorganized and unpredictable behavior, medication 
noncompliance, limited coping skills, poor reality testing. 
These were also addressed during the admission; patient was 
restarted on medications and administered ___ during the 
admission given history of poor compliance. He was offered and 
occasionally took advantage of different therapies (individual, 
group, milieu). Primary team coordinated with his outpatient 
providers in regards to discharge planning and follow up. 
Finally, the patient is being discharged with many protective 
risk factors, including lack of suicidal ideation, no history of 
substance use disorder, strong outpatient mental health 
providers ___ psychiatrist, therapist), and support from 
family (patient's father).  Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 1 mg PO BID 
2. RisperiDONE 3 mg PO QHS 
3. Benztropine Mesylate Dose is Unknown  PO Frequency is Unknown 


 
Discharge Medications:
None

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia
 
Discharge Condition:
--VS: 98.0, 107 / 73, 82, 16, 96%
--Mental Status:
-Appearance: young tall ___ man, appearing his 
stated age; wearing white shirt and scrub bottoms
-Behavior: good eye contact, no psychomotor agitation or 
retardation
-Attitude: calm, cooperative, appears less paranoid than 
previous and more open to conversation
-Mood and Affect: 'okay'; flat affect, minimally reactive, 
smiling appropriately
-Speech: quiet, slow and monotone
-Thought process: linear, organized, concrete
-Thought content: did not endorse SI/HI, denies AH today and 
yesterday. Does not appear to be responding to internal stimuli
-Judgment and Insight: poor/poor

--Cognition:
-Wakefulness/alertness: awake and alert 
-Orientation: oriented to self and situation
-Attention: attends to interview appropriately
-Memory: intact to recent hospital events
-Language: fluent ___, no paraphasic errors

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___